US04599203
To a solution of 32.0 g of 8-amino-1,3,6-naphthalenetrisulfonic acid, trisodium salt in 350 ml of water and 7.0 ml of concentrated hydrochloric acid was added 10.0 g of thiophosgene. The mixture was stirred 21/2 hours, treated with charcoal and filtered through diatomaceous earth. The filtrate was neutralized with 46 ml of 5N sodium hydroxide, chilled and the solid was collected and recrystallized from 40 ml of water by heating and then chilling in an ice bath. This solid was washed with ice water, acetone then ether and dried, giving 11.2 g of 8-isothiocyanato-1,3,6-naphthalenetrisulfonic acid, trisodium salt.

reactant | 8-amino-1,3,6-naphthalenetrisulfonic acid | 32.0 g | NC=1C=C(C=C2C=C(C=C(C12)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O | C10H9NO9S3
reactant | trisodium salt | C1=CC(=CC=C1N=NC2C(=NN(C2=O)C3=CC=C(C=C3)S(=O)(=O)[O-])C(=O)[O-])S(=O)(=O)[O-].[Na+].[Na+].[Na+]
reactant | thiophosgene | 10.0 g | C(=S)(Cl)Cl | CCl2S
reactant | charcoal | C | CH4
solvent | water | 350 ml | O | H2O
solvent | hydrochloric acid | 7.0 ml | Cl | ClH
product | 8-isothiocyanato-1,3,6-naphthalenetrisulfonic acid | 11.2 g | N(=C=S)C=1C=C(C=C2C=C(C=C(C12)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O | C11H7NO9S4
